US07435735B2
Step 6: 2-(4-Fluorobenzyl)-8-hydroxy-N-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]pyrazine-7-carboxamide
Anhydrous methylamine gas was bubbled through a mixture of ethyl 2-(4-fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-7-carboxylate (3.0 g, 9.0 mmol) and anhydrous aluminum chloride (3.0 g, 22.5 mmol) in anhydrous chloroform (45 mL) at 0° C. for 5 minutes. The resultant mixture was heated in a seal tube at 70° C. overnight and concentrated under vacuum. The residue partitioned between aqueous HCl and chloroform. The organic extract was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to provide the title compound.

reactant | methylamine | CN | CH5N
reactant | ethyl 2-(4-fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-7-carboxylate | 9.0 mmol, 3.0 g | FC1=CC=C(CN2C(C=3N(CC2)C=C(C3O)C(=O)OCC)=O)C=C1 | C17H17FN2O4
reactant | aluminum chloride | 22.5 mmol, 3.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chloroform | 45 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Fluorobenzyl)-8-hydroxy-N-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]pyrazine-7-carboxamide | FC1=CC=C(CN2C(C=3N(CC2)C=C(C3O)C(=O)NC)=O)C=C1 | C16H16FN3O3
